US06130187
Preparation of 3-(4-chloro-2-fluoro-6-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil
5.7 g (16 mmol) of 3-(4-chloro-2-fluoro-6-methoxyphenyl)-1-methyl-6-trifluoromethyluracil was dissolved in 100 ml of dichloromethane, and 27 ml (80 mmol) of boron tribromide (3.0M dichloromethane solution) was dropwise added at 0° C. After stirring at room temperature for 3 hours, the reaction solution was poured into ice water and neutralized with sodium hydrogencarbonate. It was extracted with dichloromethane. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained crude crystals were washed with isopropyl ether to obtain 5.4 g (yield: 98.2%) of the desired product as white crystals. Melting point: 143-144° C.

reactant | 3-(4-chloro-2-fluoro-6-methoxyphenyl)-1-methyl-6-trifluoromethyluracil | 16 mmol, 5.7 g | ClC1=CC(=C(C(=C1)OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C13H9ClF4N2O3
reactant | boron tribromide | 80 mmol, 3.0M, 27 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-2-fluoro-6-hydroxyphenyl)-1-methyl-6-trifluoromethyluracil | 5.4 g, yield: 98.2% | ClC1=CC(=C(C(=C1)O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
